US07157454B2
A) (R) 3-(Phenylacetyl)amino-3-(benzo[1,3]dioxol-5-yl)propionic acid
20 g of 3-amino-3-(benzo[1,3]dioxol-5-yl)propionic acid hydrochloride are placed in 10 ml of acetone, 30 ml of water and 38 ml of TEA at −5° C. and 14 ml of phenylacetyl chloride in 20 ml of acetone are added dropwise, followed by stirring for 2 hours at −5° C. The acetone is concentrated. The aqueous phase is washed with Et2O and the insoluble material is removed by filtration. The phases are separated again by settling and the aqueous phase is washed with Et2O and then acidified with 1N HCl to pH 2. The resulting phase is poured into DCM and a precipitate forms. The precipitate is filtered off by suction and rinsed with DCM. 24 g of the expected compound are obtained.

reactant | 3-amino-3-(benzo[1,3]dioxol-5-yl)propionic acid hydrochloride | 20 g | Cl.NC(CC(=O)O)C1=CC2=C(OCO2)C=C1
reactant | water | 30 ml | O | H2O
reactant | phenylacetyl chloride | 14 ml | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
solvent | acetone | 10 ml | CC(=O)C | C3H6O
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | 3-(Phenylacetyl)amino-3-(benzo[1,3]dioxol-5-yl)propionic acid | 24 g | C1(=CC=CC=C1)CC(=O)NC(CC(=O)O)C1=CC2=C(OCO2)C=C1 | C18H17NO5
